US09024018B2
3-Methyl-8-(1-methyl-1H-benzo[d]imidazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-066)
To a 0° C. solution of 8-(1H-benzo[d]imidazol-2-yl)-3-methylimidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (0.54 mmol, 0.144 grams, 1 eq.) in anhydrous DMF (2.5 mL) was added sodium hydride 60% in mineral oil (0.59 mmol, 24 mg, 1.1 eq.) portion-wise. The formed suspension was stirred at low temperature for 10 minutes and methyl iodide (1.07 mmol, 67 μL, 2 eq.) was added into it in one portion. The suspension was stirred over night at room temperature. The reaction mixture was filtered and the obtained solid was washed with water, acetonitrile and ethyl acetate, and dried under vacuum to give the title compound. Yield: 55%. δH (DMSO-d6) 9.02 (1H, s), 7.77 (1H, d, J: 8.09), 7.68 (1H, d, J: 8.12), 7.36 (1H, m), 7.32 (1H, m), 4.14 (3H, s), 3.90 (3H, s).

reactant | 8-(1H-benzo[d]imidazol-2-yl)-3-methylimidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 0.54 mmol, 0.144 grams, 1 eq. | N1C(=NC2=C1C=CC=C2)C=2N=CN1C2N=NN(C1=O)C | C12H9N7O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 1.07 mmol, 67 μL, 2 eq. | CI | CH3I
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-Methyl-8-(1-methyl-1H-benzo[d]imidazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | Yield: 55% | CN1N=NC=2N(C1=O)C=NC2C2=NC1=C(N2C)C=CC=C1 | C13H11N7O
